US05877191
Step B: 3-(3-Bromo-4-methoxyphenyl)pentane-2,4-dione
A mixture of 1-(3-bromo-4-methoxyphenyl)acetone (410 mg, 1.69 mmol), acetic anhydride (0.318 mL, 344 mg, 3.37 mmol), and p-toluenesulfonic acid (12.7 mg, 0.067 mmol) was stirred for 30 min. at RT. Boron trifluoride-acetic acid complex (0.275 mL, 372 mg, 2.92 mmol) was added and stirring was continued for 20 h. Sodium acetate trihydrate (919 mg, 6.76 mmol) in 1.7 mL of water was added and the mixture was refluxed for 3 h. Upon cooling, the reaction was partitioned between 50 mL of ethyl acetate and 30 mL of saturated aqueous sodium bicarbonate. The layers were separated and the organic layer was washed with 30 mL of brine. Drying over sodium sulfate and evaporation provided 450 mg of crude product. Purification by flash column chromatography, eluting with 10% ethyl ether in hexane, gave the 234 mg of the title compound as pale crystals. Mass spectrum (NH3/CI): m/z=285.0 (M+1).

reactant | 1-(3-bromo-4-methoxyphenyl)acetone | 1.69 mmol, 410 mg | BrC=1C=C(C=CC1OC)CC(=O)C | C10H11BrO2
reactant | acetic anhydride | 3.37 mmol, 0.318 mL, 344 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | Sodium acetate trihydrate | 6.76 mmol, 919 mg | O.O.O.C(C)(=O)[O-].[Na+]
solvent | water | 1.7 mL | O | H2O
catalyst | p-toluenesulfonic acid | 0.067 mmol, 12.7 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-(3-Bromo-4-methoxyphenyl)pentane-2,4-dione | 234 mg | BrC=1C=C(C=CC1OC)C(C(C)=O)C(C)=O | C12H13BrO3
